US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one hydrochloride
A solution of 9 g (0.2 mole) of dimethylamine in 250 ml of ethanol was added to 24 g (0.1 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)one in a steel bomb. The mixture was heated at 100° C. for 18 hrs. The solution was concentrated in vacuo and the residue partitioned between ethyl acetate and dilute sodium hydroxide. The ethyl acetate layer was concentrated and the residue comprised substantially of the free base of the title compound was dissolved in methyl isobutyl ketoneisopropanol mixture. The solution was acidified with hydrogen chloride gas to give the title compound, m.p. 188°-197° C.

reactant | dimethylamine | 0.2 mole, 9 g | CNC | C2H7N
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)one | 0.1 mole, 24 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=C2 | C12H14ClNO2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one hydrochloride | Cl.CN(CCC1OC2=C(C(N(C1)C)=O)C=CC=C2)C | InChI=1S/C14H20N2O2.ClH/c1-15(2)9-8-11-10-16(3)14(17)12-6-4-5-7-13(12)18-11;/h4-7,11H,8-10H2,1-3H3;1H
